US04979978
Preparation of (2-Methoxymethoxyphenyl)-(2-hydroxy-3-methoxyphenyl)methanol
A 1.6 M solution of butyl lithium (90.6 ml, 0.145 mol) was placed in a flask and blanketed with nitrogen and to this was added with stirring, while maintaining the temperature at 25°-30° C., 16.85 g, (0.145 mol) of tetramethylethylenediamine. The mixture was then cooled to 0° C. and 20.0 g (0.145 mol) of methoxymethoxybenzene was added with stirring and allowed to react for 2 hours after which 10.0 g (0.066 mol) of 2-hydroxy-3-methoxybenzaldehyde was added under the same conditions. The mixture was allowed to react for a few minutes and was then poured into a mixture of ice and saturated aqueous ammonium chloride. The solid that formed, which was insoluble in ether, was collected by filtration to obtain 15.5 g (81 percent of theory) of the title compound. The proton nmr spectrum was consistent with the assigned structure.

reactant | butyl lithium | 0.145 mol, 90.6 ml | C(CCC)[Li]
reactant | tetramethylethylenediamine | 0.145 mol | CN(CCN(C)C)C | C6H16N2
reactant | methoxymethoxybenzene | 0.145 mol, 20.0 g | COCOC1=CC=CC=C1 | C8H10O2
reactant | 2-hydroxy-3-methoxybenzaldehyde | 0.066 mol, 10.0 g | OC1=C(C=O)C=CC=C1OC | C8H8O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
product | (2-Methoxymethoxyphenyl)-(2-hydroxy-3-methoxyphenyl)methanol | COCOC1=C(C=CC=C1)C(O)C1=C(C(=CC=C1)OC)O | C16H18O5
